US09278981B2
Stage 222.2 5-Bromo-6-chloro-N-(4-((trifluoromethyl)sulfinyl)phenyl)nicotinamide
The title compound was prepared in an analogous fashion to that described in Stage 169.2 using 5-bromo-6-chloro-nicotinic acid and 4-(trifluoromethylsulfinyl)aniline To afford an off-white crystalline solid. HPLC (Condition 4) tR=5.59 min, UPLC-MS (Condition 3) tR=1.10 min, m/z=425 [M−H]−.

reactant | 5-bromo-6-chloro-nicotinic acid | BrC=1C(=NC=C(C(=O)O)C1)Cl | C6H3BrClNO2
reactant | 4-(trifluoromethylsulfinyl)aniline | FC(S(=O)C1=CC=C(N)C=C1)(F)F | C7H6F3NOS
product | 5-Bromo-6-chloro-N-(4-((trifluoromethyl)sulfinyl)phenyl)nicotinamide | BrC=1C(=NC=C(C(=O)NC2=CC=C(C=C2)S(=O)C(F)(F)F)C1)Cl | C13H7BrClF3N2O2S
